* Schematics Netlist *



X_U1A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_Vcc         $N_0003 0 5V
R_R1         $N_0002 $N_0003  100Meg  
R_R2         0 $N_0002  100Meg  
V_Vi         $N_0001 0 2.1V
X_U3A         $N_0004 $N_0005 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V6         $N_0004 0 0V
X_U2A         $N_0006 $N_0007 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V5         $N_0008 0 5V
V_V4         $N_0006 0 5V
R_R3         $N_0005 0  100  
R_R4         $N_0007 $N_0008  100  
